US04226775
2-Methyl-3-(m-trifluoromethylbenzoyl)propionic acid
To a solution of 60.0 g. of α-(m-trifluoromethylphenyl)-4-morpholineacetonitrile in 200 ml. of tetrahydrofuran is added 10 ml. of 30% potassium hydroxide in ethanol, followed by the rapid addition of 22.0 ml. of methacrylonitrile (exothermic). The mixture is stirred at room temperature overnight and the solvent is removed. To the residue is added 200 ml. of acetic acid and 20 ml. of water and this mixture is refluxed for 2 hours. The solvent is removed in vacuo and 200 ml. of 6 N hydrochloric acid is added to the residue. This mixture is refluxed for 18 hours, cooled and extracted with dichloromethane. The dichloromethane extract is passed through a column of hydrous magnesium silicate. The eluate is concentrated in vacuo and crystallized from dichloromethane-hexane giving 55 g. of off-white crystals. These crystals are dissolved in dichloromethane and extracted with saturated sodium bicarbonate solution. The aqueous extract is acidified with hydrochloric acid and extracted with dichloromethane. This organic extract is passed through hydrous magnesium silicate and the eluate is concentrated. The residue is crystallized from dichloromethane-hexane, giving 39 g. of the desired product as off-white crystals m.p. 90°-91° C.

reactant | α-(m-trifluoromethylphenyl)-4-morpholineacetonitrile | FC(C=1C=C(C=CC1)C(C#N)N1CCOCC1)(F)F | C13H13F3N2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium hydroxide | [OH-].[K+]
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
reactant | ethanol | C(C)O | C2H6O
product | 2-Methyl-3-(m-trifluoromethylbenzoyl)propionic acid | CC(C(=O)O)CC(C1=CC(=CC=C1)C(F)(F)F)=O | C12H11F3O3
